US04067720
10 ml of methyl isocyanate were added to a solution of 11 g of 3-hydroxy-5-(ethoxycarbonylmethylthio)-1,2,4-thiadiazole in 100 ml of tetrahydrofuran containing 0.5 ml of triethylamine and the mixture was stirred for 2 hours at 20° C. The mixture was evaporated to dryness under reduced pressure and the residue was empasted with ethyl acetate and vacuum filtered. The crystals were washed with water to obtain 10 g of 2-(N-methylcarbamoyl)-5-(ethoxycarbonylmethylthio)-1,2,4-thiadiazole-3-one which after crystallization from acetone melted at 163° C.

reactant | methyl isocyanate | 10 ml | CN=C=O | C2H3NO
reactant | 3-hydroxy-5-(ethoxycarbonylmethylthio)-1,2,4-thiadiazole | 11 g | OC1=NSC(=N1)SCC(=O)OCC | C6H8N2O3S2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(N-methylcarbamoyl)-5-(ethoxycarbonylmethylthio)-1,2,4-thiadiazole-3-one | 10 g | CNC(=O)N1SC(=NC1=O)SCC(=O)OCC | C8H11N3O4S2
